US07550474B2
e. Difluoro-(5-methyl-pyridin-2-yl)-acetic Acid Ethyl Ester
To a stirred suspension of Cu(0) (12.2 g, 0.19 mmol, 2.2×) in DMSO (87 mL) at RT under argon was added ethyl bromodifluoroacetate (13.4 mL, 0.10 mol, 1.2×) (see Eto, H., et al.; Chem. Pharm. Bull. 48: 982-990, 2000; and Ashwood, M. S., et al.; Tetrahedron Lett. 43: 9271-9273, 2002). After 2.5 h, 2-bromo-5-methylpyridine was added in one portion, the flask resealed, re-evacuated, and purged with argon. After 48 h, the reaction was partitioned between EtOAc (200 mL) and saturated NH4Cl (150 mL). The organic phase was rewashed with saturated NH4Cl (100 mL) until the blue color dissipated. The organic phase was dried over Na2SO4 and concentrated in vacuo to afford a yellow/green non-viscous oil. Purification via flash chromatography (30% EtOAc/hexanes) afforded the product as a clear oil (10.5 g, 0.05 mol, 56% yield). 1H NMR (300 Hz, CDCl3) δ 8.47 (s, 1H), 7.63 (m, 2H), 4.37 (q, J=7.3 Hz), 2.40 (s, 3H), 1.33 (t, J=7.3 Hz, 3H); LC/MS (m/z) [M+1]+ 216.2 (calculated for C10H12F2NO2, 216.2).

reactant | ethyl bromodifluoroacetate | 0.10 mol, 13.4 mL | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
reactant | 2-bromo-5-methylpyridine | BrC1=NC=C(C=C1)C | C6H6BrN
solvent | DMSO | 87 mL | CS(=O)C | C2H6OS
product | Difluoro-(5-methyl-pyridin-2-yl)-acetic Acid Ethyl Ester | 0.05 mol, 10.5 g, 56% yield | C(C)OC(C(C1=NC=C(C=C1)C)(F)F)=O | C10H11F2NO2
